Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Toradol
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Pap smear
Endometrial biopsy

 
History of Present Illness:
___ yo G5P4 with recent diagnosis of large atypical mass 
concerning for atypical fibroid vs. leiomyosarcoma on pelvic MRI 
who presents with worsening abdominal pain. Her symptoms first 
began 6 months ago, with diffuse abdominal pain and heavy 
vaginal bleeding. She was originally saturating 1 pad every ___ 
hours for about a week. 

She presented to her PCP in ___, and had a pelvic ultrasound 
performed on ___ showing: 
1. Intramural anterior uterine mass.  Although this could 
represent a leiomyoma, the mass is solitary and demonstrates 
slightly irregular borders, increased vascularity and very 
little shadowing which is atypical. This appears new when 
compared with CT dating back to ___. Further characterization 
is recommended.  
2. Endometrial distortion due to fibroids. 
3. Unremarkable ovaries. 

She had an MRI on ___ to further characterize this mass. She 
presented on day of admission with worsening abdominal pain over 
the past week as well and nausea and dry heaving. Her abdominal 
pain was generally a dull aching pain, however is sharp at 
times. It often radiated to the left side and towards her
back. She was given Vicodin by her PCP, which she notes does not 
help the pain and she occasional takes ibuprofen which she feels 
helps the pain slightly. She reports occasional dysuria and 
feeling of "pressure" when she urinates, however denies 
hematuria or sensation of incomplete emptying. She had not eaten 
much over the past few days due to nausea. She also had 
occasional dizziness. She presented to her PCP on day of 
admission with these symptoms, who recommended that she come to 
the ED for admission and expedited work-up for this mass.  

She denies fevers, chills, chest pain, shortness of breath, 
vaginal bleeding or discharge, diarrhea, constipation, weight 
loss or fatigue.  She reports significant anxiety associated 
with this pelvic mass and persistent pain. 
 
Past Medical History:
PMH:
- Hyperlipidemia
- Obesity, BMI 44.8
- Herpes simplex 2
- HTN
- Anxiety
- Depression
- Migraines
- ___ esophagus (dx: ___
- IBS-diarrhea

PSH:
- Tonsillectomy ___ ___
- Laparoscopic left ovarian cystectomy
- Laparoscopic cholecystectomy ___ ago)
- Left rotator cuff repair
- C-sections x2
 
Social History:
___
Family History:
- Both paternal and maternal grandparents: diabetes
- Mother: breast cancer (dx ___ currently ___
- Father: prostate cancer (dx ___ currently ___
- Maternal aunt: uterine cancer (was in remission, recently
metastasized to lungs, ___
- Denies h/o other breast, uterine, ovarian, or colon cancer.

 
Physical Exam:
Vitals: T 98.3, BP 110/61, HR 84, RR 16, O2 95% RA
General: lying in bed, no acute distress
HEENT: EOMI, no cervical LAD
Cardio: RRR, nl s1s2, no m/r/g
Resp: CTAB, no wheezes or crackles
Abd: Normoactive bowel sounds, diffuse tenderness to paplpation 
more prominent in suprapubic region, no rebound tenderness or 
guarding
Ext: Calves non-tender bilaterally, no edema
 
Pertinent Results:
___ 04:12PM   GLUCOSE-94 UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-22 ANION GAP-13
___ 04:12PM   estGFR-Using this
___ 04:12PM   ALT(SGPT)-14 AST(SGOT)-19 ALK PHOS-85 TOT 
BILI-0.5
___ 04:12PM   LIPASE-17
___ 04:12PM   ALBUMIN-4.0
___ 04:12PM   WBC-7.7 RBC-4.04 HGB-9.2* HCT-31.6* MCV-78* 
MCH-22.8* MCHC-29.1* RDW-16.2* RDWSD-46.1
___ 04:12PM   NEUTS-63.5 ___ MONOS-8.2 EOS-1.2 
BASOS-0.5 IM ___ AbsNeut-4.90 AbsLymp-2.02 AbsMono-0.63 
AbsEos-0.09 AbsBaso-0.04
___ 04:12PM   PLT COUNT-245
___ 04:12PM   ___ PTT-29.3 ___
___ 02:45PM URINE  HOURS-RANDOM
___ 02:45PM URINE  UCG-NEGATIVE
___ 02:45PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 02:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR*
___ 02:45PM URINE  RBC-4* WBC-12* BACTERIA-MOD* YEAST-NONE 
EPI-10
___ 02:45PM URINE  MUCOUS-MANY*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for management of her abdominal pain and work-up of her 
abdominal mass seen on imaging. She was seen and evaluated by 
the GYN Oncology service, who reviewed the possible etiologies 
of the mass including a fibroid, atypical fibroid, degenerating 
fibroid or a sarcoma. A plan was made for her to follow up with 
Oncology for possible definitive treatment, including 
hysterectomy.

On ___, she underwent an endometrial biopsy, and a pap smear 
was obtained. 

Her pain was initially controlled with oral Tylenol and dilaudid 
with IV dilaudid for breakthrough pain. NSAIDs were initially 
held due to concern for her history of ___ esophagus; 
however, the GI team advised that this is not a contraindication 
to NSAIDs. NSAIDs were added to her pain regimen leading to an 
improvement in overall pain. She was discharged in stable 
condition on an oral pain regimen of Tylenol, ibuprofen and prn 
dilaudid.

 
Medications on Admission:
1. Albuterol 90mcg 2 puffs q4H PRN
2. Bupropion 150mg PO BID
3. Hydrocodone-acetaminophen 5mg/325mg PO TID PRN
4. Lorazepam 0.5mg PO BID 
5. Metformin ER 500mg PO BID
6. Omeprazole 20mg PO BI
7. Propranolol 40mg PO BID
8. Sertraline 100mg PO Daily
9. Vitamin D3 2000U PO Daily
10. Vitamin B12 1000mcg PO Daily
11. Ferrous sulfate 325mg PO Daily
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
Do not take more than 4 grams in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID PRN Disp 
#*60 Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
___ cause drowiness 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
4.  BuPROPion (Sustained Release) 150 mg PO BID  
5.  Omeprazole 20 mg PO BID  
6.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for evaluation of 
your abdominal pain. You have recovered well and the team 
believes you are ready to be discharged home. Please call Dr. 
___ office with any questions or concerns. Please follow 
the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___